US05753660
To an ice-cold solution of chloroacetyl chloride (2.87 g, 25 mmol) in 15 mL of methylene chloride was added thiomorpholine (2.50 g, 24 mmol) and triethylamine (4.9 g, 48 mmol) slowly. The reaction mixture was stirred at 5° C. for 30 minutes, then warmed to room temperature and stirred for 18 hours. After quenching with water (20 mL) at 5° C., additional methylene chloride (200 mL) was added. The organic layer was separated, washed with saturated aqueous NaHCO3 (2×100 mL), brine (2×100 mL), dried over MgSO4, filtered, and the filtrate was concentrated at reduced pressure. The concentrated residue was dried in vacuo to give 1.83 g (42.0%) of 4-(2-chloroacetyl) thiomorpholine as a brown liquid. 1HNMR (300 MHz / CDCl3):δ 2.62 (t, 2H, J=5.03 Hz), 2.68 (t, 2H, J=4.93Hz), 3.75 (t, 2H, J=5.04 Hz), 3.85 (t, 2H, J=5.04 Hz), 4.04 (s, 2H); mass spectrum, m/z =180.2 (M+H).

reactant | chloroacetyl chloride | 25 mmol, 2.87 g | ClCC(=O)Cl | C2H2Cl2O
reactant | thiomorpholine | 24 mmol, 2.50 g | N1CCSCC1 | C4H9NS
reactant | triethylamine | 48 mmol, 4.9 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-chloroacetyl) thiomorpholine | 1.83 g, 42.0% | ClCC(=O)N1CCSCC1 | C6H10ClNOS
